US04495198
Preparation of 7-(3-amino-2-hydroxypropoxy) flavone hydrochloride
7-(2,3-Epoxypropoxy)flavone (13.3 g, 0.045 mol) in a presurre bottle was treated with a methanolic solution (90 ml) containing 1.87 g of ammonia (0.11 mol). The bottle was sealed and the suspension was heated at 50° for 12 hrs. A tlc (15% MeOH/CHCl3) indicated that the starting material was gone, and the reaction mixture was cooled and filtered. The solid (5.32 g) thus obtained was shown by tlc to be a byproduct, m.p. 209°-12°. The filtrate, upon evaporation, afforded 7.0 g of a yellow solid, m.p. 121°-27°, which was purified by high pressure liquid chromatography to give 1.85 g of yellow powder, m.p. 154°-56°. (13% yield). The hydrochloride salt was prepared and recrystallized from MeOH, m.p. 191°-2°.

reactant | 7-(2,3-Epoxypropoxy)flavone | 0.045 mol, 13.3 g | O1C(COC2=CC=C3C(C=C(OC3=C2)C2=CC=CC=C2)=O)C1 | C18H14O4
reactant | ammonia | 0.11 mol, 1.87 g | N | H3N
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 7-(3-amino-2-hydroxypropoxy) flavone hydrochloride | 5.32 g | Cl.NCC(COC1=CC=C2C(C=C(OC2=C1)C1=CC=CC=C1)=O)O | InChI=1S/C18H17NO4.ClH/c19-10-13(20)11-22-14-6-7-15-16(21)9-17(23-18(15)8-14)12-4-2-1-3-5-12;/h1-9,13,20H,10-11,19H2;1H
